US05556863
Preparation of 3-butyryl-4-(2-methoxyphenylamino)-8-(3-methylthiopropoxy)quinoline
A mixture of 3-butyryl-4-chloro-8-(3-methylthiopropoxy)quinoline (0.95 g, 2.97 mmol) and 2-methoxyaniline (1.46 g, 11.8 mmol) in toluene was heated to 55° C. and stirred overnight. The solvent was evaporated and the residue was partitioned between methylene chloride and a saturated sodium bicarbonate solution. The organic layer was dried over Na2SO4 and evaporated. The residue was chromatographed (SiO2 ; CH2Cl2 :MeOH 95:5) yielding 0.90g (71%) of the desired product.

reactant | 3-butyryl-4-chloro-8-(3-methylthiopropoxy)quinoline | 2.97 mmol, 0.95 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCCSC | C17H20ClNO2S
reactant | 2-methoxyaniline | 11.8 mmol, 1.46 g | COC1=C(N)C=CC=C1 | C7H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-butyryl-4-(2-methoxyphenylamino)-8-(3-methylthiopropoxy)quinoline | 0.90g, 71% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)OC)OCCCSC | C24H28N2O3S
